data/mechanisms/records/IMS8-EQ8.19.json
{"mechanism_id": "IMS8-EQ8.19", "species": [{"species_id": "pentan_2_one_molecular_ion", "mapped_smiles": "[CH3:1][C:2](=[O+:6])[CH2:3][CH2:4][CH2:5][1H:8]", "role": "precursor_ion", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}, {"species_id": "distonic_gamma_H_ion", "mapped_smiles": "[CH3:1][C:2](=[O+:6][1H:8])[CH2:3][CH2:4][CH2:5]", "role": "product_ion", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}], "states": [{"state_id": "state_precursor", "species_ids": ["pentan_2_one_molecular_ion"]}, {"state_id": "state_products", "species_ids": ["distonic_gamma_H_ion"]}], "steps": [{"step_id": "step_gamma_H_transfer", "from_state": "state_precursor", "to_state": "state_products", "step_class": "hydrogen_rearrangement", "semantics": "formal_arrow_step", "electron_moves": [{"source": {"type": "atom", "atom_maps": [6]}, "target": {"type": "bond", "atom_maps": [6, 8]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [5, 8]}, "target": {"type": "bond", "atom_maps": [6, 8]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [5, 8]}, "target": {"type": "atom", "atom_maps": [5]}, "electron_count": 1}], "reaction_smirks": null, "reversible": true}], "evidence": [{"evidence_id": "ev_step_8_19", "source_id": "mclafferty_ims_4e", "target_type": "step", "target_id": "step_gamma_H_transfer", "support_type": "textbook_proposed", "locator": {"page": 151, "equation": "8.19", "figure": null, "panel": null, "section": "8.2 (top of p.151): reverse-second-step of Eq. 8.19; homolytic H-transfer from carbon to a heteroatom radical cation forming the distonic radical ion .R'Y+H"}, "confidence": 0.8, "curator_note": "Equation 8.19 is a GENERIC scheme, R'-H + Y+. <=> (R'....H....Y)+. <=> R'. + H-Y+ : a homolytic hydrogen-atom transfer from a carbon to a heteroatom radical-cation site, yielding a distonic radical ion (text: 'hydrogen-transfer rearrangements from carbon atoms to O, Cl, or CN to yield the distonic radical ion .R'Y+H'). ARC COUNT (convention D): the page draws 0 electron-pushing arcs -- it conveys the mechanism only by the dotted-bond transition state (R'....H....Y)+. and the word 'homolytic' printed over both equilibrium arrows; the horizontal underbrackets are species-grouping brackets (the unshown remainder of the ion joining R' to Y), NOT curved arrows. Book draws 0 arc(s); all three moves are implicit homolysis/H-transfer hooks required for electron balance (not drawn on the page). INSTANTIATION (convention F -- generic scheme, the page prints no m/z and no %): realized as the gamma-H transfer of the n-ionized pentan-2-one molecular ion, Y = carbonyl O6 with charge AND odd electron localized as =[O+.] per convention B; a six-membered TS moves the gamma-H (H8, written [1H] so RDKit keeps it as a mapped node) from C5 to O6. This is the McLafferty first step and belongs to exactly the family discussed at the foot of this same page (2-hexanone gamma-H/beta-cleavage, Eqs 4.33/8.2). Three fishhooks (homolytic H-atom transfer): move<1> O6 odd electron into the forming O6-H8 bond; move<2> one C5-H8 bonding electron into that same O-H bond (so the new O-H bond receives its 2 electrons); move<3> the other C5-H8 electron back onto C5, the new gamma-carbon radical. The product is a distonic radical cation that is an ISOMER of M+. (same formula C5H10O, m/z 86.0726, no fragment lost); its m/z is curator-computed from this instantiation, not printed in the book. The page shows equilibrium arrows, so the step is marked reversible."}], "ms_context": {"ionization_method": "EI", "polarity": "positive", "adduct": "[M]+•", "activation_method": "electron ionization", "collision_energy": null, "electron_energy_ev": 70.0, "precursor_mz": 86.0726, "precursor_charge": 1, "instrument_type": "unspecified"}, "peak_assignments": [{"peak_id": "peak_86_distonic", "species_id": "distonic_gamma_H_ion", "step_id": "step_gamma_H_transfer", "observed_mz": 86.0726, "relative_intensity": null, "hydrogen_shift": 1, "isotope_offset": 0, "status": "inferred", "confidence": 0.6}], "curation": {"schema_version": "1.0.0", "record_version": 1, "extraction_method": "vision_multiagent", "review_status": "unreviewed", "created_at": "2026-07-25T00:00:00Z", "modified_at": "2026-07-25T00:00:00Z"}}
